US07943607B2
1,1-Dimethylethyl 3-{[(3-[(1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}phenyl)carbonyl]amino}-1H-pyrazole-1-carboxylate
1-Chloro-N,N,2-trimethyl-1-propenylamine (0.1 mL, 0.74 mmol) was added to a solution of 3-[(1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid (0.21 g, 0.50 mmol) in DCM (5 mL) and stirred for 1 hour. 1,1-Dimethylethyl 3-amino-1H-pyrazole-1-carboxylate (137 mg, 0.74 mmol) then pyridine (0.08 mL, 0.99 mmol) were added and the reaction stirred for a further 45 minutes. The mixture was reduced in vacuo and ethyl acetate (50 mL) and water (50 mL) added. The aqueous layer was re-extracted into ethyl acetate (50 mL) and the combined organics washed with water (50 mL), brine (50 mL), dried (MgSO4), filtered and reduced in vacuo to give a golden oil which was chromatographed on silica, eluting with 30-60% ethyl acetate in isohexane, to give a colourless oil. The oil was dissolved in ethyl acetate (30 mL) and washed with 1M hydrochloric acid, dried (MgSO4), filtered and reduced in vacuo to give the desired compound as a colourless oil (47 mg).

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 0.74 mmol, 0.1 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-[(1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | 0.50 mmol, 0.21 g | O=S1(NCCOC2=C1C=CC(=C2)OC=2C=C(C(=O)O)C=C(C2)O[C@H](COC)C)=O | C19H21NO8S
reactant | 1,1-Dimethylethyl 3-amino-1H-pyrazole-1-carboxylate | 0.74 mmol, 137 mg | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
reactant | pyridine | 0.99 mmol, 0.08 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 1,1-Dimethylethyl 3-{[(3-[(1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}phenyl)carbonyl]amino}-1H-pyrazole-1-carboxylate | 47 mg | O=S1(NCCOC2=C1C=CC(=C2)OC=2C=C(C=C(C2)O[C@H](COC)C)C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)=O | C27H32N4O9S
